US04429152
22.5 g (0.1 mol) of 3-hydroxy-2,4,6-trichlorobenzonitrile are dissolved in 240 ml of methanol with the addition of 2.3 g (0.1 mol) of metallic sodium. To the resultant suspension of the sodium salt is added 12.15 ml (0.11 mol) of ethyl bromoacetate, and the reaction mixture is heated to reflux until solution is complete. After filtration over active carbon, the solution is cooled and stirred for several hours in an ice bath. The resultant crystalline precipitate is vacuum-filtered, washed with a little ice-cold methanol and dried at 50° C., to produce 19 g (64.5% of theory) of 3-cyano-2,4,6-trichlorophenoxyacetic acid methyl ester as a white powder, mp 110°-112° C.

reactant | 3-hydroxy-2,4,6-trichlorobenzonitrile | 0.1 mol, 22.5 g | OC=1C(=C(C#N)C(=CC1Cl)Cl)Cl | C7H2Cl3NO
reactant | sodium | 0.1 mol, 2.3 g | [Na] | Na
reactant | ethyl bromoacetate | 0.11 mol, 12.15 ml | BrCC(=O)OCC | C4H7BrO2
solvent | methanol | 240 ml | CO | CH4O
product | 3-cyano-2,4,6-trichlorophenoxyacetic acid methyl ester | 19 g, 64.5% | COC(COC1=C(C(=C(C=C1Cl)Cl)C#N)Cl)=O | C10H6Cl3NO3
